US06630461B2
18.2) 3-[(3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(4-hydroxy-3-aminophenyl)-2-propenamide
In a 100 ml flask equipped with a refrigerant, 0.9 g (2.18 mmoles) of 3-[(3,5-bis-(1,1-dimethylethyl) -4-hydroxyphenyl]-N-(4-hydroxy-3-nitrophenyl)-2-propenamide is dissolved in 20 ml of ethyl acetate, 2.46 g (10.9 mmoles) of tin chloride (dihydrate) is added and the mixture is heated at 70° C. for three hours. After returning to ambient temperature, the reaction medium is poured onto an agitated solution of sodium bicarbonate (0.1 M), a precipitate forms, which is eliminated by filtration on celite. The filtrate is decanted and the aqueous phase is extracted with 20 ml of ethyl acetate. The organic phases are collected together and washed with 20 ml of water followed by 20 ml of a saturated solution of sodium chloride. After drying over sodium sulphate and filtration, the organic solution is concentrated to dryness, under partial vacuum. The evaporation residue is suspended in a heptane/ethyl acetate mixture (1/1) and filtered to produce a yellowish powder with a yield of 53%. The product is used as it is in the following stage.

reactant | (3,5-bis-(1,1-dimethylethyl) -4-hydroxyphenyl]-N-(4-hydroxy-3-nitrophenyl)-2-propenamide | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)NC1=CC(=C(C=C1)O)[N+](=O)[O-])=C | C23H28N2O5
reactant | tin chloride | 10.9 mmoles, 2.46 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | sodium bicarbonate | 0.1 M | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | (3,5-bis-(1,1-dimethylethyl)-4-hydroxyphenyl]-N-(4-hydroxy-3-aminophenyl)-2-propenamide | yield of 53% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C(C(=O)NC1=CC(=C(C=C1)O)N)=C | C23H30N2O3
